US05728907
One mole of n-nonadecyl-n-tetradecyl-n-decylmethylchloride is added to 0.75 liters of methylene chloride and the solution is blanketed with nitrogen and cooled to 0° C. Tri-n-octylaluminum, 0.33 moles, is then added and the mixture is allowed to warm to room temperature. The mixture is slowly quenched with 50 ml of water followed by washing with 1 liter of a 10% HCl solution. The organic layer was dried with magnesium sulfate and the solvent evaporated to give n-nonadecyl-n-tetradecyl-n-decyl-n-octylmethane.

reactant | n-nonadecyl-n-tetradecyl-n-decylmethylchloride | One mole | C(CCCCCCCCCCCCCCCCCC)C(CCCCCCCCCC)(CCCCCCCCCCCCCC)Cl | C44H89Cl
reactant | Tri-n-octylaluminum | C(CCCCCCC)[Al](CCCCCCCC)CCCCCCCC
solvent | methylene chloride | 0.75 liters | C(Cl)Cl | CH2Cl2
product | n-nonadecyl-n-tetradecyl-n-decyl-n-octylmethane | C(CCCCCCCCCCCCCCCCCC)C(CCCCCCCC)(CCCCCCCCCC)CCCCCCCCCCCCCC | C52H106
